US08030500B2
1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(pyrimidin-5-yl)-1H-isoindol-3-amine
n-Butyllithium (0.136 mL, 0.34 mmol) was slowly added to 5-bromopyrimidine (50 mg, 0.31 mmol) in THF (1.0 mL) at −78° C. under argon atmosphere. The reaction mixture was stirred for 45 min. N-((3-Bromo-4-fluorophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (111 mg, 0.26 mmol) in THF (1.0 mL) was added dropwise and the resulting reaction mixture was stirred at −78° C. for 1 h, and then allowed to reach room temperature. The reaction was quenched with water and extracted with ethyl acetate (×3). The combined organic layers were washed with brine and concentrated in vacuo. The residue was dissolved in methanol (2.0 mL) and hydrochloric acid (2.0 M in diethyl ether, 0.393 mL, 0.79 mmol) was added at room temperature. The mixture was stirred over night, and then concentrated in vacuo. The residue was partitioned between aqueous sodium bicarbonate (saturated) and ethyl acetate (×3). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. Purification by silica gel chromatography using a gradient of 0 to 10% (3.5 M ammonia in methanol) in dichloromethane gave the title compound (59.4 mg, 56% yield). MS (ES+) m/z 401, 403 [M+1]+.

reactant | n-Butyllithium | 0.34 mmol, 0.136 mL | C(CCC)[Li]
reactant | 5-bromopyrimidine | 0.31 mmol, 50 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | N-((3-Bromo-4-fluorophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.26 mmol, 111 mg | BrC=1C=C(C=CC1F)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H15BrF2N2OS
reactant | hydrochloric acid | 0.79 mmol, 2.0 M, 0.393 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(pyrimidin-5-yl)-1H-isoindol-3-amine | 59.4 mg, 56% yield | BrC=1C=C(C=CC1F)C1(N=C(C2=C(C=CC=C12)F)N)C=1C=NC=NC1 | C18H11BrF2N4
